US07557213B2
Preparation of 1-(6-Bromo-pyridin-2-ylmethyl)-3-(6-dimethylamino-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Example 141, from 42 mg (0.092 mmol) of 1-(6-bromo-pyridin-2-ylmethyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one and 1 mL 2 M dimethylamine solution. Yield: 17 mg of a yellow powder. LC-MSD, m/z for C23H19BrN4O2 [M+H]+=463.0, 465.0; HPLC retention time: 0.6 min.

reactant | 1-(6-bromo-pyridin-2-ylmethyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one | 0.092 mmol, 42 mg | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C=NC(=CC1)Cl | C21H13BrClN3O2
reactant | dimethylamine | 2 M, 1 mL | CNC | C2H7N
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(6-dimethylamino-pyridine-3-carbonyl)-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C=NC(=CC1)N(C)C | C23H19BrN4O2
